US08802690B2
A solution of (Z)-methyl 2-((1-aminoethylideneaminooxy)carbonyl)isonicotinate in toluene (1 L) was heated at reflux overnight. The obtained mixture was evaporated and purified by silica-gel column chromatography to afford methyl 2-(3-methyl-1,2,4-oxadiazol-5-yl)isonicotinate as a white solid.

reactant | (Z)-methyl 2-((1-aminoethylideneaminooxy)carbonyl)isonicotinate | N\C(\C)=N/OC(=O)C=1C=C(C(=O)OC)C=CN1 | C10H11N3O4
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(3-methyl-1,2,4-oxadiazol-5-yl)isonicotinate | CC1=NOC(=N1)C=1C=C(C(=O)OC)C=CN1 | C10H9N3O3
